US06388084B1
A mixture of 3-bromo-5-chloro-1H-2-pyridone (950 mg, 4.56 mmol), freshly ground potassium carbonate (1.26 g, 9.1 mmol) and tetrabutyl ammonium chloride (100 mg) in was stirred mechanically without solvent for 30 min and benzyl bromide (0.56 mL, 4.7 mmol) was added. The mixture was stirred at room temperature for 72 hr. The mixture was diluted with ethyl acetate and filtered, washing the solids with ethyl acetate. The filtrate was evaporated to dryness and the residue was triturated with several portions of hexane. The residue was chromatographed over 90 g of silica gel eluting with 3:1 hexane:ethyl acetate followed by 100% ethyl acetate to give 1-benzyl-3-bromo-5-chloro-2-pyridone (423 mg, 31%), mp 108-110° C. LR(+)LSIMS: m/z 595 (2M+H, 2 Cl, 2 Br), 298 (M+H,1 Cl, 1 Br).

reactant | 3-bromo-5-chloro-1H-2-pyridone | 4.56 mmol, 950 mg | BrC=1C(NC=C(C1)Cl)=O | C5H3BrClNO
reactant | potassium carbonate | 9.1 mmol, 1.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.7 mmol, 0.56 mL | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutyl ammonium chloride | 100 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3-bromo-5-chloro-2-pyridone | 423 mg, 31% | C(C1=CC=CC=C1)N1C(C(=CC(=C1)Cl)Br)=O | C12H9BrClNO
